US06872851B1
Step A: 4-[4-(Methylthio)phenyl]-4-oxobutanoic acid
In a 500 ml flask with a ground neck, 0.17 mol of succinic anhydride is added to a solution of 0.17 mol of thioanisole in 140 ml of tetrachloroethane. The mixture is cooled with the aid of an ice bath, and 0.34 mol of aluminium chloride is added in small portions. The mixture is then heated at 60° C. for 3 hours. The reaction mixture is then cooled, poured into ice-cold water and acidified with 3M HCl solution. The precipitate formed is filtered off under suction, washed with cyclohexane and recrystallised.

reactant | succinic anhydride | 0.17 mol | C1(CCC(=O)O1)=O | C4H4O3
reactant | thioanisole | 0.17 mol | C1(=CC=CC=C1)SC | C7H8S
reactant | aluminium chloride | 0.34 mol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 3M | Cl | ClH
solvent | tetrachloroethane | 140 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
product | 4-[4-(Methylthio)phenyl]-4-oxobutanoic acid | CSC1=CC=C(C=C1)C(CCC(=O)O)=O | C11H12O3S
